Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:3].[O:1]=[C:2][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.39978021569
[H:1]/[C:2](=[C:3](/[H:4])[O:5][O:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([C:3]1([H:4])[O:5][O:6]1)[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],0.435451030429
[H:1][C:2](=[C:3]=[C:4]([H:5])[H:6])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.93009396888
[C:1]#[C:2][O:3][C:4][C:6]([H:7])[H:8].[H:5]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8],-4.96319559588
[C:1]#[C:2].[C:3]([H:4])#[C:5][O:6][H:7]>>[C:1]#[C:2][C:3]([H:4])[C:5][O:6][H:7],-3.64271328266
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11]>>[C:2]=[C:3]([O:4][H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11].[H:1],4.44943057032
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],4.5546772434300005
[H:1].[O:2][C:3]#[C:4][C:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-1.10241264868
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][C:4]([H:5])[H:6],3.14720495791
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11].[H:3],5.114380816050001
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14].[O:1]=[C:2]([H:3])[H:4],0.818244260002
[C:4]([H:5])#[C:6][O:7][C:8]([H:9])[H:10].[H:1][O:2][C:3]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])[H:10],-1.8319809748
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[H:1][C:2],7.14423662117
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],4.326149537619997
[C:3]([H:4])([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.8063890128
[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-0.838328944772
[H:1].[O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-4.65811353967
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8][H:9],4.817745860990001
[O:1][C@:2]1([H:3])[C:4]([O:5][H:6])=[C:7]([H:8])[C:9]1([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:9](/[C:7](=[C:4]/[O:5][H:6])[H:8])([H:10])[H:11],-0.21932624498000006
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][C:12][H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@:9]1([H:10])[O:11][C:12]1[H:13],-1.7845862338
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],6.15613853897
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[C:10][O:11][C:12]([H:13])([H:14])[H:15].[H:6],2.03292654617
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:8][H:9].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][C:10]([H:11])([H:12])[H:13],8.344871533280001
[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:13].[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])=[C:11][H:12],4.99685726843
[H:4].[O:1]=[C:2]([C:3])[O:5][C:6]#[C:7][H:8]>>[O:1]=[C:2]([C:3][H:4])[O:5][C:6]#[C:7][H:8],-4.39478052914
[H:1]/[C:2](=[C:3](/[O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],4.6896716628
[C:4]([H:5])([C:6]#[C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]#[C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.50872282419
[C:3]([H:4])([H:5])=[C:6]([H:7])[H:8].[O:1]=[C:2][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.02466917002
